US04297355
To a cooled (below 5° C.) suspension of 7-hydroxymethyl-(1H,3H,5H)-(1)-benzopyrano-(2,3-d)-pyrimidine-4-one-2-thione (2.8 g.) in dry pyridine (100 ml.), add isobutyric anhydride (20 ml.). Keep the mixture cold for 24 hours and stir the mixture at 20° C. for an additional two days. Pour the mixture over ice water, filter and successively wash the solids with water, ethanol and ether. Dry the washed solids to obtain 7-(isobutyryloxymethyl)-(1H,3H,5H)-(1)-benzopyrano-(2,3-d)-pyrimidine-4-one-2-thione.

reactant | 7-hydroxymethyl-(1H,3H,5H)-(1)-benzopyrano-(2,3-d)-pyrimidine-4-one-2-thione | 2.8 g | OCC=1C=CC2=C(CC3=C(NC(NC3=O)=S)O2)C1 | C12H10N2O3S
reactant | isobutyric anhydride | 20 ml | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 7-(isobutyryloxymethyl)-(1H,3H,5H)-(1)-benzopyrano-(2,3-d)-pyrimidine-4-one-2-thione | C(C(C)C)(=O)OCC=1C=CC2=C(CC3=C(NC(NC3=O)=S)O2)C1 | C16H16N2O4S
